US05578627
To a suspension of 0.50 g of 3-(2-amino-3-methoxypropoxy)-5-chloro-1,2-benzoisoxazole and 0.5 g of 3,5-di-tert-butyl-4-hydroxybenzaldehyde in 5 ml of methanol is added 0.41 g of p-toluenesulfonic acid at 20°-25° C., and they are subjected to reaction at the same temperature for one hour. Subsequently, 0.13 g of sodium cyanoborohydride is added at 20°-25° C., and they are subjected to reaction at the same temperature overnight. Water and ethyl acetate are added to the reaction mixture and the pH is adjusted to 10 with a 10% (w/w) aqueous sodium hydroxide solution, after which the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:n-hexane:ethyl acetate=5:1], to obtain an oily product. The oily product obtained is dissolved in 10 ml of diethyl ether and 1 ml of water and to this solution is added 0.58 ml of a dioxane solution (2.2N) of hydrogen chloride, after which the crystals precipitated are collected by filtration and recrystallized from 50% ethanol, to obtain 0.27 g of colorless, crystalline 3-[2-(3,5-di-tert-butyl-4-hydroxybenzyl)amino-3-methoxypropoxy]-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 191°-192° C.

reactant | 3-(2-amino-3-methoxypropoxy)-5-chloro-1,2-benzoisoxazole | 0.50 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)COC | C11H13ClN2O3
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 0.5 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | p-toluenesulfonic acid | 0.41 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium cyanoborohydride | 0.13 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | dioxane | 2.2N, 0.58 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-(3,5-di-tert-butyl-4-hydroxybenzyl)amino-3-methoxypropoxy]-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.C(C)(C)(C)C=1C=C(CNC(COC2=NOC3=C2C=C(C=C3)Cl)COC)C=C(C1O)C(C)(C)C | InChI=1S/C26H35ClN2O4.ClH/c1-25(2,3)20-10-16(11-21(23(20)30)26(4,5)6)13-28-18(14-31-7)15-32-24-19-12-17(27)8-9-22(19)33-29-24;/h8-12,18,28,30H,13-15H2,1-7H3;1H
